US06890940B2
To a solution of N,N′-bis(2-trifluoromethanesulfonyloxy-5-pyridyl)-N,N′-dimethylethylenediamine (108.0 mg, 0.200 mmol) synthesized in Reference Example 1 in ethanol-toluene (1:6, 3.5 mL) were added 2,4-dimethoxyphenylboronic acid (108.0 mg, 0.200 mmol), tetrakis-(triphenylphosphine)palladium (46.0 mg, 0.040 mmol) and a 2.0 M aqueous sodium carbonate solution (0.20 mL, 0.40 mmol). After stirring at 80° C. for 2 hours, brine was added, and the mixture was extracted with chloroform. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified column chromatography on silica gel to provide N,N′-bis[2-(2,4-dimethoxyphenyl)-5-pyridyl]-N,N′-dimethylethylenediamine as a colorless amorphous powder (109.0 mg; quantitative).

reactant | N,N′-bis(2-trifluoromethanesulfonyloxy-5-pyridyl)-N,N′-dimethylethylenediamine | 0.200 mmol, 108.0 mg | FC(S(=O)(=O)OC1=NC=C(C=C1)N(CCN(C)C=1C=CC(=NC1)OS(=O)(=O)C(F)(F)F)C)(F)F | C16H16F6N4O6S2
reactant | 2,4-dimethoxyphenylboronic acid | 0.200 mmol, 108.0 mg | COC1=C(C=CC(=C1)OC)B(O)O | C8H11BO4
reactant | sodium carbonate | 0.40 mmol, 2.0 M, 0.20 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | brine | [Cl-].[Na+].O
product | N,N′-bis[2-(2,4-dimethoxyphenyl)-5-pyridyl]-N,N′-dimethylethylenediamine | COC1=C(C=CC(=C1)OC)C1=NC=C(C=C1)N(CCN(C)C=1C=CC(=NC1)C1=C(C=C(C=C1)OC)OC)C | C30H34N4O4
